US06087392
To a solution of 4-[N-(diphenylmethylene)amino]tetrahydropyran-4-carboxylic acid ethyl ester (16.0 grams, 0.047 mole) in diethyl ether (120 mL) was added 1M aqueous hydrochloric acid solution (100 mL). The mixture was stirred vigorously at room temperature for 16 hours. The layers were separated and the aqueous layer washed with diethyl ether. The aqueous layer was brought to pH 10 with dilute aqueous ammonium hydroxide solution and extracted with dichloromethane. The organic extract was dried over sodium sulfate and concentrated to give 4-aminotetrahydropyran-4-carboxylic acid ethyl ester (7.128 g, 71.7%) as an oil.

reactant | 4-[N-(diphenylmethylene)amino]tetrahydropyran-4-carboxylic acid ethyl ester | 0.047 mole, 16.0 grams | C(C)OC(=O)C1(CCOCC1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C21H23NO3
reactant | hydrochloric acid | 1M, 100 mL | Cl | ClH
solvent | diethyl ether | 120 mL | C(C)OCC | C4H10O
product | 4-aminotetrahydropyran-4-carboxylic acid ethyl ester | 7.128 g, 71.7% | C(C)OC(=O)C1(CCOCC1)N | C8H15NO3
